US09334263B2
Step 2: Synthesis of 5-(2-fluorophenoxy)-2-(piperazin-1-yl)pyrimidine HCl Salt
To a solution of tert-butyl 4-(5-(2-fluorophenoxyl)pyrimidin-2-yl)piperazine-1-carboxylate (50 mg, 0.13 mmol) in dioxane (3 mL) was added 4 M HCl/dioxane (3 mL). The reaction mixture was stirred at room temperature overnight and then concentrated to dryness. The residue (50 mg, yellow solid) was directly used in the next reaction.

reactant | tert-butyl 4-(5-(2-fluorophenoxyl)pyrimidin-2-yl)piperazine-1-carboxylate | 0.13 mmol, 50 mg | FC1=C(OC=2C=NC(=NC2)N2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1 | C19H23FN4O3
reactant | HCl dioxane | 4 M, 3 mL | Cl.O1CCOCC1
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 5-(2-fluorophenoxy)-2-(piperazin-1-yl)pyrimidine HCl Salt | Cl.FC1=C(OC=2C=NC(=NC2)N2CCNCC2)C=CC=C1 | InChI=1S/C14H15FN4O.ClH/c15-12-3-1-2-4-13(12)20-11-9-17-14(18-10-11)19-7-5-16-6-8-19;/h1-4,9-10,16H,5-8H2;1H
